US09416132B2
To a solution of compound 4,4-difluorocyclohexanecarboxamide (1.8 g, 13 mmol) in 100 mL THF was added LiBH4 (1.1 g, 50 mmol) under N2 stirred for overnight. Then the reaction mixture was refluxed for 4 h. After cooled to r.t, it was poured into ice-water slowly. After filtration, the product was extracted with DCM from filtrate. Combined organic layers washed with water, brine, dried over Na2SO4, filtered and condensed to afford compound (4,4-difluorocyclohexyl)methanamine (0.8 g, crude) as a colorless oil.

reactant | 4,4-difluorocyclohexanecarboxamide | 13 mmol, 1.8 g | FC1(CCC(CC1)C(=O)N)F | C7H11F2NO
reactant | LiBH4 | 50 mmol, 1.1 g | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4,4-difluorocyclohexyl)methanamine | 0.8 g | FC1(CCC(CC1)CN)F | C7H13F2N
